US04965270
(e) 5-(N'-Benzoyl-S-methylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide
A mixture of 5-(N'-benzoylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide (2.9 g, 6.4 mmol), 0.1N sodium hydroxide solution (100 ml) and methyl iodide (0.64 ml; 10.3 mmol) was stirred at 20° C. for 16 hours and then the solution adjusted to pH 5 with glacial acetic acid. After several extractions with chloroform, the combined extracts were dried (magnesium sulphate) and evaporated to a syrup. Column chromatography on silica gel (eluted with chloroformethanol, 30:1) afforded the title compound (2.7 g, 88.7%).

reactant | 5-(N'-benzoylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide | 6.4 mmol, 2.9 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(N=CN1OCCCOCC1=CC=CC=C1)C(=O)N | C22H23N5O4S
reactant | sodium hydroxide | 0.1N, 100 ml | [OH-].[Na+]
reactant | methyl iodide | 10.3 mmol, 0.64 ml | CI | CH3I
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(N'-Benzoyl-S-methylthiocarbamoyl)amino-1-(3-benzyloxyprop-1-oxy)imidazole-4-carboxamide | 2.7 g, 88.7% | C(C1=CC=CC=C1)(=O)NC(=SC)NC1=C(N=CN1OCCCOCC1=CC=CC=C1)C(=O)N | C23H27N5O4S
